US05159061
(III) Production of Boc-Cys(MBzl)-Phe-βAla-OH
Using Boc-Phe-βAla-OH (prepared with 1.31 g Boc-Phe-βAla-OH.CHA), 1.02 g Boc-Cys(MBzl)-OH, 0.60 g HONB and 0.68 g DCC, the desired product was obtained in exactly the same manner as in Example 1-(XX), and was then crystallized with ether and collected by filtration.

reactant | Boc-Phe-βAla-OH | 1.31 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCCC(=O)O)C(=O)OC(C)(C)C | C17H24N2O5
reactant | Boc-Cys(MBzl)-OH | 1.02 g | N([C@@H](CSCC1=CC=C(C)C=C1)C(=O)O)C(=O)OC(C)(C)C | C16H23NO4S
reactant | HONB | 0.60 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 0.68 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | Boc-Cys(MBzl)-Phe-βAla-OH | N([C@@H](CSCC1=CC=C(C)C=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCCC(=O)O)C(=O)OC(C)(C)C | C28H37N3O6S
